US06984646B2
8-Benzoyl-2-bromoimidazo[1,2-a]pyridin-5(1H)-one
The compound is prepared as described in example 6 with 96.50 mg (0.36 mmol) of 2-(4-bromo-1H-imidazol-2-yl)-1-phenylethanone (example XXXXIII), 39.84 mg (0.55 mmol) of propiolic acid and 106.24 mg (0.66 mmol) of 1-(1H-imidazol-1-ylcarbonyl)-1H-imidazole.

reactant | 2-(4-bromo-1H-imidazol-2-yl)-1-phenylethanone | 0.36 mmol, 96.50 mg | BrC=1N=C(NC1)CC(=O)C1=CC=CC=C1 | C11H9BrN2O
reactant | propiolic acid | 0.55 mmol, 39.84 mg | C(C#C)(=O)O | C3H2O2
reactant | 1-(1H-imidazol-1-ylcarbonyl)-1H-imidazole | 0.66 mmol, 106.24 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 8-Benzoyl-2-bromoimidazo[1,2-a]pyridin-5(1H)-one | C(C1=CC=CC=C1)(=O)C1=C2N(C(C=C1)=O)C=C(N2)Br | C14H9BrN2O2
